US07700786B2
Reaction of 5-methyl-3-(3-methoxy-4-nitrophenyloxy)pyrazole with ethyl isocyanate was carried out in the same manner as in Example 96, to give a yellow viscous substance of N-ethyl-5-methyl-3-(3-methoxy-4-nitrophenyloxy)pyrazole-1-carboxamide (yield: 62.9%). 1H-NMR (CDCl3, TMS, ppm): δ 1.24 (t, J=7.2 Hz, 3H), 2.63 (d, J=0.6 Hz, 3H), 3.40 (dq, J=5.9 and 7.2 Hz, 2H), 3.95 (s, 3H), 5.81 (q, J=0.6 Hz, 1H), 6.75 (dd, J=2.4 and 9.0 Hz, 1H), 6.84 (d, J=2.4 Hz, 1H), 6.93 (br s, 1H), 7.96 (d, J=9.0 Hz, 1H).

reactant | 5-methyl-3-(3-methoxy-4-nitrophenyloxy)pyrazole | CC1=CC(=NN1)OC1=CC(=C(C=C1)[N+](=O)[O-])OC | C11H11N3O4
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
product | N-ethyl-5-methyl-3-(3-methoxy-4-nitrophenyloxy)pyrazole-1-carboxamide | yield: 62.9% | C(C)NC(=O)N1N=C(C=C1C)OC1=CC(=C(C=C1)[N+](=O)[O-])OC | C14H16N4O5
